US04000154
Methyl cis-3-azido-4-oxoazetidine-2-carboxylate was reduced with sodium borohydride as described in Preparation 3 and the product was chromatographed on silica gel with ethyl acetate as eluant to give cis-3-azido-2-hydroxymethyl-4-oxoazetidine.

reactant | Methyl cis-3-azido-4-oxoazetidine-2-carboxylate | N(=[N+]=[N-])[C@@H]1[C@@H](NC1=O)C(=O)OC | C5H6N4O3
reactant | sodium borohydride | [BH4-].[Na+]
product | cis-3-azido-2-hydroxymethyl-4-oxoazetidine | N(=[N+]=[N-])[C@@H]1[C@@H](NC1=O)CO | C4H6N4O2
